US09428503B2
5-bromo-6-fluoropyridin-2-amine
NBS (50.0 g, 280.99 mmol) was added slowly to 6-fluoropyridin-2-amine (30 g, 267.61 mmol) in MeCN (300 mL) cooled to 10-20° C. over a period of 30 minutes. The resulting solution was stirred at ambient temperature for 60 minutes then the solvent removed under reduced pressure. The residue was diluted with water, the precipitate collected by filtration, washed with water (200 mL) and dried under vacuum to afford the desired material (50.0 g, 98%) as a white solid, which was used without further purification. NMR Spectrum: 1H NMR (300 MHz, DMSO-d6) δ 6.29 (1H, d), 6.57 (2H, bs), 7.65 (1H, t). Mass Spectrum: m/z (ES+)[M+H]+=191.

reactant | NBS | 280.99 mmol, 50.0 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | 6-fluoropyridin-2-amine | 267.61 mmol, 30 g | FC1=CC=CC(=N1)N | C5H5FN2
solvent | MeCN | 300 mL | CC#N | C2H3N
product | 5-bromo-6-fluoropyridin-2-amine | 50.0 g, 98% | BrC=1C=CC(=NC1F)N | C5H4BrFN2
